US04267191
A 5.25% aqueous NaOCl solution (60 ml) is added to a stirred, cooled suspension of 1.9 g of ammonium furfuryldithiocarbamate in 20 ml of CH2Cl2 at such a rate that the temperature does not exceed 6° C. The mixture is stirred one hour at 20° C. and extracted with 3×50 ml of CH2Cl2. The combined extracts are washed with H2O (2×50 ml) dried (Na2SO2) and evaporated to afford 1.13 g of (81.2% yield) of crude furfurylisothiocyanate (NMR, IR are supportive of the structure).

reactant | NaOCl | 60 ml | [O-]Cl.[Na+]
reactant | ammonium furfuryldithiocarbamate | 1.9 g | C(C1=CC=CO1)NC([S-])=S.[NH4+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | furfurylisothiocyanate | 1.13 g, 81.2% yield | C(C1=CC=CO1)N=C=S | C6H5NOS
